US05324747
To a solution of 5.4 ml (0.027 mol) of decylamine and 5.6 ml (0.04 mol(of triethylamine in 20 ml of methylene chloride cooled in an ice bath was added dropwise a solution of 5.0 g (0.027 mol) of 4-nitrobenzoyl chloride in 40 ml of methylene chloride. The reaction mixture was stirred in the ice bath for 30 minutes, at room temperature for 15 minutes and kept at 0° for 18 hours. After dilution was methylene chloride, the mixture was washed with 0.5 N NaOH and the extract was dried and concentrated to a solid. Recrystallization from methylene chloride-hexane gave 8.1 g (98% yield, mp 89°-91°) of 4-[(decylamino)carbonyl]nitrobenzene. The nmr was consistent with the structure.

reactant | decylamine | 0.027 mol, 5.4 ml | C(CCCCCCCCC)N | C10H23N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 4-nitrobenzoyl chloride | 0.027 mol, 5.0 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 4-[(decylamino)carbonyl]nitrobenzene | 8.1 g, 98% yield | C(CCCCCCCCC)NC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C17H26N2O3
